US05804585
D. N-(4 -chloro-3 -methyl-5-isoxazolyl)-2-(naphthylmethyl)thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 4(D) using N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-(naphthylmethyl)thieno[2,3-b]pyridine-3-sulfonamide (58 mg, 0.10 mmoles), methanol (2 ml) and 4N HCl (2 ml). Recrystallization from EtOAc/hexanes provided 30 mg (61%) of the title compound as a yellow crystalline solid, m.p. 165°-168° C.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-(naphthylmethyl)thieno[2,3-b]pyridine-3-sulfonamide | 0.10 mmoles, 58 mg | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=CC=CC1=CC=CC=C21)COCCOC)C | C26H24ClN3O5S2
reactant | HCl | 4N, 2 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N-(4 -chloro-3 -methyl-5-isoxazolyl)-2-(naphthylmethyl)thieno[2,3-b]pyridine-3-sulfonamide | 30 mg, 61% | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=CC=CC1=CC=CC=C21)C | C22H16ClN3O3S2
